US07259266B2
7-(2,3-Dimethylphenyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
To the mixture of ethyl 6-methyl-2-(trifluoromethyl)-7-{[(trifluoromethyl) sulfonyl]-oxy}-2H-chromene-3-carboxylate (0.3 g, 0.7 mmol), tetrakistriphenylpalladium (0)(4.5 mg, 0.035 mmol), powdered potassium phosphate (222 mg, 1.05 mmol) and 2,3-dimethylphenylboronic acid (106 mg, 0.84 mmol) was added 5 mL of anhydrous dixoane. The resulting mixiture was heated to 85° C. and stirred for 6 hrs. After cooling to room temperature, to the reaction was added 100 mL of ethyl acetate. The organic phases were washed with brine, and dried over anhydrous magnesium sulfate. After removing the solvents, the residue was purified on silica gel column with 1:9 EtOAc/hexane. The collected fraction was evaporated to dryness, the residue was dissolved in 6 mL of 1:1 THF/ethanol, to the resulting solution was added lithium hydroxide hydrate (117 mg, 2.8 mmol), followed by addition of 3 mL of water. The resulting mixture was heated to 80° C. and stirred for 1.5 hr. After removing the volatiles, the residue was acidified at 0° C. with ice-cold dilute HCl. The product was then extracted with EtOAc. After removing the volatiles, the residue was purified on reverse phase HPLC. It gave 39 mg of a light yellow solid product. 1H NMR (CDCl3/CD3OD/300 MHz) 7.85(s, 1H), 7.21-7.14(m, 3H), 6.96(dd, J=6.9 Hz, 15.6 Hz, 1H), 6.79(s, 1H), 5.71(q, J=7.2 Hz, 1H), 2.35(s, 3H), 2.00(s, 6H). 19F NMR(CDCl3/300 MHz) −78.81. 13C NMR (CDCl3/CD3OD/300 MHz) 167.3, 151.5, 148.1, 140.6(d, J=4.8 Hz), 138.5, 137.3, 134.1(d, J=13.7 Hz), 130.7, 129.4, 126.8, 126.6, 125.6, 123.9(q, J=287.9 Hz), 118.0, 117.2, 115.9, 70.8(q, J=32.9 Hz), 20.7, 19.1, 16.6. LC-MS(ES+): 363.2(M+1, 100). High resolution MS(ES−): m/z calc. For C20H]6F3O3: 361.1052(M−H), found: 361.1036.

reactant | ethyl 6-methyl-2-(trifluoromethyl)-7-{[(trifluoromethyl) sulfonyl]-oxy}-2H-chromene-3-carboxylate | 0.7 mmol, 0.3 g | CC=1C=C2C=C(C(OC2=CC1OS(=O)(=O)C(F)(F)F)C(F)(F)F)C(=O)OCC | C15H12F6O6S
reactant | potassium phosphate | 1.05 mmol, 222 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2,3-dimethylphenylboronic acid | 0.84 mmol, 106 mg | CC1=C(C=CC=C1C)B(O)O | C8H11BO2
reactant | lithium hydroxide hydrate | 2.8 mmol, 117 mg | O.[OH-].[Li+]
solvent | water | 3 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 7-(2,3-Dimethylphenyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 39 mg | CC1=C(C=CC=C1C)C1=C(C=C2C=C(C(OC2=C1)C(F)(F)F)C(=O)O)C | C20H17F3O3
